US09085576B2
Step 4: [(1R,S),(5S,R),(6R,S)]-5-(difluoromethyl)-5-(3-fluoro-2-methylphenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine (28d rac)
N-(5-(difluoromethyl)-5-(3-fluoro-2-methylphenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)benzamide (1.0 g, 2.67 mmol) was dissolved in methanol (50 mL) under nitrogen and 1,8-diazabicyclo-[5.4.0]undec-7-ene (0.798 ml, 5.34 mmol) was added. The reaction was heated to 40° C. After 18 hours, the reaction mixture was concentrated to dryness under reduced pressure and the residue partitioned between water and ethyl acetate. The organic layer was isolated and concentrated under reduced pressure. The crude residue was purified via silica gel flash chromatography eluting with 0-60% ethyl acetate in hexanes afforded the title compound 5-(difluoromethyl)-5-(3-fluoro-2-methylphenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine (0.470 g, 1.739 mmol, 65.1% yield). LC/MS (ESI+) m/z=270.9 (M+H).

reactant | N-(5-(difluoromethyl)-5-(3-fluoro-2-methylphenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)benzamide | 2.67 mmol, 1.0 g | FC(C1(N=C(OC2CC12)NC(C1=CC=CC=C1)=O)C1=C(C(=CC=C1)F)C)F | C20H17F3N2O2
reactant | 1,8-diazabicyclo-[5.4.0]undec-7-ene | 5.34 mmol, 0.798 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | methanol | 50 mL | CO | CH4O
product | 5-(difluoromethyl)-5-(3-fluoro-2-methylphenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine | 1.739 mmol, 0.470 g, 65.1% yield | FC(C1(N=C(OC2CC12)N)C1=C(C(=CC=C1)F)C)F | C13H13F3N2O
